US06191140B1
methyl 4-(3-bromo-4-fluorophenyl)-2-methyl-5-oxo-4,5,6,8-tetrahydro-1H-pyrano[3,4-b]pyridine-3-carboxylate
A mixture of tetrahydropyran-3,5-dione (Terasawa, J. Org. Chem. (1977), 42, 1163-1169) (1.4 g, 12 mmol), 3-bromo-4-fluorobenzaldehyde (3.0 g, 15 mmol), methyl 3-aminocrotonate (1.4 g, 12 mmol) and ethyl alcohol (10 mL) was processed as described in Example 2A. Purification by flash chromatography over silica gel (1% then 2% and then 5% methyl alcohol/methylene chloride) provided the title compound (2.4 g) as a solid.

reactant | tetrahydropyran-3,5-dione | 12 mmol, 1.4 g | O1CC(CC(C1)=O)=O | C5H6O3
reactant | 3-bromo-4-fluorobenzaldehyde | 15 mmol, 3.0 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | methyl 3-aminocrotonate | 12 mmol, 1.4 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | methyl 4-(3-bromo-4-fluorophenyl)-2-methyl-5-oxo-4,5,6,8-tetrahydro-1H-pyrano[3,4-b]pyridine-3-carboxylate | 2.4 g | BrC=1C=C(C=CC1F)C1C2=C(NC(=C1C(=O)OC)C)COCC2=O | C17H15BrFNO4
